US08211930B2
(S)-Tert-butyl 1-(4H-benzo[d][1,3]dioxin-7-yl)-1-oxopropan-2-ylcarbamate (I3C)
In a separate reaction tube was (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (1 g, 4.31 mmol) suspended in THF (5 mL) and cooled in an ice/acetone bath to below −5° C., isopropylmagnesium chloride, 2M solution in THF (2.5 mL, 5.00 mmol) was slowly added to form an solution. To this solution was added the above freshly prepared grignard reagent. The mixture was allowed to reach room temperature and stirred for 4 hours. The reaction mixture was slowly poured into ice-cold 150 mL 1M HCl, EtOAc (150 mL) was added and the mixture was stirred for a few minutes and transferred to a separation funnel. The organic phase was washed with water and brine, dried over MgSO4, filtered and concentrated. The obtained crude product was further purified by flash chromatography using an prepacked 70 g silica column with gradient of 10% TBME to 40% TBME in Heptane as eluent. The subtitle compound was obtained as a colourless solid. Yield 790 mg (59%)

reactant | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 4.31 mmol, 1 g | CON(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | THF | 5.00 mmol, 2.5 mL | C1CCOC1 | C4H8O
product | (S)-Tert-butyl 1-(4H-benzo[d][1,3]dioxin-7-yl)-1-oxopropan-2-ylcarbamate | O1COCC2=C1C=C(C=C2)C([C@H](C)NC(OC(C)(C)C)=O)=O | C16H21NO5
